US05948785
Ethyl 3,5-dinitrobenzimidate hydrochloride was synthesized in the same manner as in Reference Example 2. That is, 3,5-dinitrobenzonitrile (25.2 g, 0.130 mol) was treated with hydrogen chloride in ethanol (250 mL) to give 34.5 g (96%) of the target compound as pale-brown crystals.

reactant | 3,5-dinitrobenzonitrile | 0.130 mol, 25.2 g | [N+](=O)([O-])C=1C=C(C#N)C=C(C1)[N+](=O)[O-] | C7H3N3O4
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 250 mL | C(C)O | C2H6O
product | Ethyl 3,5-dinitrobenzimidate hydrochloride | Cl.[N+](=O)([O-])C=1C=C(C(OCC)=N)C=C(C1)[N+](=O)[O-] | InChI=1S/C9H9N3O5.ClH/c1-2-17-9(10)6-3-7(11(13)14)5-8(4-6)12(15)16;/h3-5,10H,2H2,1H3;1H
